US07381741B2
trans-2-Phenyl-pyrrolidine-1,3-dicarboxylic acid 1-benzyl ester sodium salt
trans-2-Phenyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester obtained from preparatory example 8 (10.1 g, 34.8 mmol) was stirred in 1,4-dioxane (145 mL) at 0° C. 6 M HCl (29 mL, 174 mmol) was added and the mixture was slowly warmed to rt and stirred for 16 h. The mixture was then cooled to 0° C. and solid NaHCO3 was carefully added until the aqueous layer was saturated. Benzyl chloroformate was added and the mixture was stirred vigorously at 0° C. for 1 hr, and at rt for 20 h. The suspension was then filtered and the solids were dried under vacuum to give 6.54 g (55%) of the title compound. MS APCI: [M+H]+=326.1

reactant | trans-2-Phenyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](CC1)C(=O)O)C1=CC=CC=C1 | C16H21NO4
reactant | HCl | 174 mmol, 6 M, 29 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | 1,4-dioxane | 145 mL | O1CCOCC1 | C4H8O2
product | trans-2-Phenyl-pyrrolidine-1,3-dicarboxylic acid 1-benzyl ester sodium salt | 6.54 g, 55% | [Na+].C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@@H](CC1)C(=O)[O-])C1=CC=CC=C1 | InChI=1S/C19H19NO4.Na/c21-18(22)16-11-12-20(17(16)15-9-5-2-6-10-15)19(23)24-13-14-7-3-1-4-8-14;/h1-10,16-17H,11-13H2,(H,21,22);/q;+1/p-1/t16-,17+;/m1./s1
